US05354766
6a) 4'-methylbiphenyl-2-carbohydrazide
To a solution of 4'-methylbiphenyl-2-carboxylic acid (6.4 g) in tetrahydrofuran (50 ml) were added N,N-dimethylformamide (two drops) and oxalyl chloride (4.4 g). The mixture was stirred for 16 hours at room temperature. The solvent was evaporated to dryness under reduced pressure to give an oil, which was added dropwise to a solution of hydrazine monohydrate (7.5 g) in tetrahydrofuran (50 ml) with stirring, followed by stirring for further 6 hours. The reaction mixture was diluted with water, which was extracted with ethyl acetate. The extract was washed with water and dried. The solvent was evaporated to dryness under reduced pressure. The residue was purified by column chromatography on silica gel to give crude crystals. Recrystallization from chloroform-isopropyl ether afforded the title compound as colorless needles (4.3 g, 63%), m.p.98°-99° C.

reactant | 4'-methylbiphenyl-2-carboxylic acid | 6.4 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C14H12O2
reactant | oxalyl chloride | 4.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrazine monohydrate | 7.5 g | O.NN
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4'-methylbiphenyl-2-carbohydrazide | 4.3 g, 63% | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NN | C14H14N2O
